US07947851B2
Step b) Formation of [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(propylamino)carbonyl]-amino}methyl)phenoxy]acetic acid
To a solution of methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(propylamino)carbonyl]-amino}methyl)phenoxy]acetate (47 mg, 0.089 mmol) in MeOH/THF (2 ml, (1/1)) was added an aqueous solution of NaOH (2 mL, 1N). The reaction mixture was stirred at rt for 2 hrs. Then an aqueous solution of HCl (7 mL, 1N) was added and extracted with Et2O (2×7 mL). The combined organic layers were dried over Na2SO4 and the solvents were removed under reduced pressure to give 42 mg (77%) of the title compound as a yellow oil. HPLC, Rt: 5.1 min (purity: 83.9%). LC/MS, M+(ESI): 513.4, M−(ESI): 511.4. 1H NMR (DMSO-d6) Ε: 7.49 (d, J=8.3 Hz, 2H), 7.44 (d, J=7.9 Hz, 2H), 7.22 (m, 4H), 7.11 (d, J=8.8 Hz, 2H), 6.86 (d, J=8.8 Hz, 2H), 6.53 (t, J=5.3 Hz, 1H), 4.63 (s, 2H), 4.37 (s, 2H), 4.31 (s, 2H), 3.03 (m, 2H), 2.60 (t, J=7.7 Hz, 2H), 1.58-1.22 (m, 6H), 0.89 (t, J=7.3 Hz, 3H), 0.78 (t, J=7.4 Hz, 3H).

reactant | methyl [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(propylamino)carbonyl]-amino}methyl)phenoxy]acetate | 0.089 mmol, 47 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)NCCC)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C33H38N2O4
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | HCl | 1N, 7 mL | Cl | ClH
solvent | MeOH THF | 2 ml | CO.C1CCOC1
product | [4-({{4-[(4-butylphenyl)ethynyl]benzyl}[(propylamino)carbonyl]-amino}methyl)phenoxy]acetic acid | 42 mg, 77% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)NCCC)CC2=CC=C(OCC(=O)O)C=C2)C=C1 | C32H36N2O4
